US06194461B1
Production of α-(4-(1-imidazolyl)phenyl)-N-t-butylnitrone
To a suspension of 1,1-dimethylnitroethane (261.2 mg, 2.53 mmol) and zinc (247.0 mg, 3.78 mmol) in ethanol (3.0 ml) was added acetic acid (451.8 mg, 7.52 mmol) dropwise at 5° C. while stirring. The mixture was stirred at room temperature for 30 minutes. After cooling the mixture to 5° C. again, 4-(1-imidazolyl)benzaldehyde (216.5 mg, 1.26 mmol) was added dropwise to the mixture while stirring and stirred at room temperature overnight. Zinc acetate in the mixture was filtered off and the filtrate was concentrated and purified by silica gel chromatography (chloroform/methanol=10/1).

reactant | 1,1-dimethylnitroethane | 2.53 mmol, 261.2 mg | CC(C)(C)[N+](=O)[O-] | C4H9NO2
reactant | acetic acid | 7.52 mmol, 451.8 mg | C(C)(=O)O | C2H4O2
reactant | 4-(1-imidazolyl)benzaldehyde | 1.26 mmol, 216.5 mg | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
catalyst | zinc | 3.78 mmol, 247.0 mg | [Zn] | Zn
product | α-(4-(1-imidazolyl)phenyl)-N-t-butylnitrone | N1(C=NC=C1)C1=CC=C(C=C1)C=[N+]([O-])C(C)(C)C | C14H17N3O
